US06004948
3-(2,4-Dichlorophenoxy)-4-methylsulphonylaminobenzene-sulphonic acid bis(hydroxymethyl)methylamide
3-(2,4-Dichlorophenoxy)-4-methylsulphonylaminobenzene-sulphonic acid chloride (1.8 g, 2.51 mmol) was dissolved in CH2Cl2 (5 ml) and at 0° C. added dropwise to a solution of bis(hydroxymethyl)methylamine (0.44 g, 4.8 mmol) in pyridine (20 ml). The mixture was stirred for 2 hours at 0° C. and then evaporated down. The residue was dried in vacuo and purified by chromatography (silica gel, chloroform/MeOH 19/1) Yield: 0.35 g=29% 13C (100 MHz, DMSO-d6) δ 150.17, 147.50, 138.39, 132.09, 130.34, 129.29, 129.10, 126.02, 123.25, 122.75, 122.51, 115.22, 60.36, 57.07, 40.94

reactant | 3-(2,4-Dichlorophenoxy)-4-methylsulphonylaminobenzene-sulphonic acid chloride | 2.51 mmol, 1.8 g | ClC1=C(OC=2C=C(C=CC2NS(=O)(=O)C)S(=O)(=O)Cl)C=CC(=C1)Cl | C13H10Cl3NO5S2
reactant | bis(hydroxymethyl)methylamine | 4.8 mmol, 0.44 g | OCN(C)CO | C3H9NO2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2,4-Dichlorophenoxy)-4-methylsulphonylaminobenzene-sulphonic acid bis(hydroxymethyl)methylamide | OCC(NS(=O)(=O)C1=CC(=C(C=C1)NS(=O)(=O)C)OC1=C(C=C(C=C1)Cl)Cl)CO | C16H18Cl2N2O7S2
